US08835411B2
Ethyl 8-fluoro-1,4-dioxaspiro[4.5]decane-8-carboxylate
To a solution of ethyl 1,4-dioxaspiro[4.5]decane-8-carboxylate (15 g, 70.0 mmol, 1 equiv) in THF (200 mL) at 0° C. (ice water bath), was added LiHMDS (98 mL of a 1 M solution in THF, 98 mmol, 1.4 equiv) in 4 portions over ˜2 min. After stirring 1 h, N-fluoro-di(benzenesulfonyl)-amine (26.5 g, 84 mmol, 1.2 equiv) was added. The reaction was stirred 20 min then poured into a saturated aqueous solution of NaHCO3. The aqueous solution was extracted with ether (×3). The combined ether layers were dried (MgSO4) and concentrated in vacuo. Crude residue was stirred with hexane (˜600 mL) and filtered. The filtrate was concentrated in vacuo to give 16.68 g of the crude product as a yellow oil. ˜4:1 product:sm. Taken on as is to the ester reduction. 1H NMR (400 MHz, CDCl3) δ ppm 4.25 (q, J=7.11 Hz, 2H), 3.94-4.00 (m, 4H), 2.02-2.26 (m, 4H), 1.92 (td, J=13.30, 4.77 Hz, 2H), 1.66-1.77 (m, 2H), 1.31 (t, J=7.03 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ ppm −168.50 (br. s., 1F).

reactant | ethyl 1,4-dioxaspiro[4.5]decane-8-carboxylate | 70.0 mmol, 15 g, 1 equiv | O1CCOC12CCC(CC2)C(=O)OCC | C11H18O4
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-fluoro-di(benzenesulfonyl)-amine | 84 mmol, 26.5 g, 1.2 equiv | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Ethyl 8-fluoro-1,4-dioxaspiro[4.5]decane-8-carboxylate | 16.68 g | FC1(CCC2(OCCO2)CC1)C(=O)OCC | C11H17FO4
